US09421205B2
(b) tert-Butyl 4-(4-((4-((3-(methoxycarbonyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate (I32)
To a nitrogen de-gassed solution of methyl 3-ethynylbenzoate (I31) (0.105 g, 0.655 mmol) in dry DMF (6 mL) were added triethylamine (0.308 mL, 2.18 mmol) followed by tert-butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate (I3) (0.250 g, 0.546 mmol), triphenylphosphine (0.021 g, 0.082 mmol), trans-dichlorobis(triphenylphosphine)palladium(II) (0.038 g, 0.055 mmol) and Cu(I)I (0.016 g, 0.082 mmol). The reaction mixture was heated under microwave irradiation at 120° C. for 20 minutes, concentrated to dryness in vacuo and purified by silica gel chromatography (Biotage Isolera, 40 g Si cartridge, 0-50% EtOAc in petroleum benzine 40-60° C.) to give the title compound (I32) (0.182 g, 57% yield) as an orange solid; 1H NMR (400 MHz, d6-DMSO) δ 10.28 (brs, 1H), 8.78 (s, 1H), 8.16-8.03 (m, 2H), 7.90 (d, J=7.8 Hz, 1H), 7.69 (t, J=7.9 Hz, 1H), 7.55 (d, J=9.0 Hz, 2H), 6.96 (d, J=9.0 Hz, 2H), 3.90 (s, 3H), 3.50-3.41 (m, 4H), 3.11-2.99 (m, 4H), 1.42 (s, 9H). LCMS Method C: rt 6.82 min; m/z 582.2 [M+H]+.

reactant | methyl 3-ethynylbenzoate | 0.655 mmol, 0.105 g | C(#C)C=1C=C(C(=O)OC)C=CC1 | C10H8O2
reactant | triethylamine | 2.18 mmol, 0.308 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate | 0.546 mmol, 0.250 g | ClC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C20H23ClF3N5O2
reactant | triphenylphosphine | 0.082 mmol, 0.021 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | trans-dichlorobis(triphenylphosphine)palladium(II) | 0.055 mmol, 0.038 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-Butyl 4-(4-((4-((3-(methoxycarbonyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate | 0.182 g, 57% yield | COC(=O)C=1C=C(C=CC1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C30H30F3N5O4
